US08039469B2
To a stirred solution of triphosgene (269 mg, 0.90 mmol) in CH2Cl2 (5 mL) was added 3-{[4-(4-Amino-phenyl)-6-morpholin-4-yl-[1,3,5]triazin-2-ylamino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester (500 mg, 1.13 mmol) at 25° C. The reaction mixture was stirred for 15 min and 4-aminopyridine (319 mg, 3.39 mmol) and NEt3 (1.56 mL, 11.3 mmol) were added and the reaction mixture was stirred for additional 1 hr. The solvents were removed on a rotary evaporator and the crude mixture was purified by semi-prep-HPLC (TFA-method) to give 3-({4-Morpholin-4-yl-6-[4-(3-pyridin-4-yl-ureido)-phenyl]-[1,3,5]triazin-2-ylamino}-methyl)-azetidine-1-carboxylic acid tert-butyl ester (150 mg, 16% yield); MS (ESI) m/z 562.

reactant | triphosgene | 0.90 mmol, 269 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-{[4-(4-Amino-phenyl)-6-morpholin-4-yl-[1,3,5]triazin-2-ylamino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester | 1.13 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC(C1)CNC1=NC(=NC(=N1)C1=CC=C(C=C1)N)N1CCOCC1 | C22H31N7O3
reactant | 4-aminopyridine | 3.39 mmol, 319 mg | NC1=CC=NC=C1 | C5H6N2
reactant | NEt3 | 11.3 mmol, 1.56 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-({4-Morpholin-4-yl-6-[4-(3-pyridin-4-yl-ureido)-phenyl]-[1,3,5]triazin-2-ylamino}-methyl)-azetidine-1-carboxylic acid tert-butyl ester | 150 mg, 16% yield | C(C)(C)(C)OC(=O)N1CC(C1)CNC1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=NC=C1 | C28H35N9O4
